US05661160
Synthesis of 8-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one
Prepare by the method of example 3.3 using 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate (5 mmol) and 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one (7.5 mmol, 1.5 eq.). Chromatograph on silica gel to give the title compound.

reactant | 2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl-methanesulfonate | 5 mmol | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCCS(=O)(=O)[O-]
reactant | 1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | 7.5 mmol, 1.5 eq. | FC1=CC=C(C=C1)N1CNC(C12CCNCC2)=O | C13H16FN3O
product | 8-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-1-(4-fluoro-phenyl)-1,3,8-triaza-spiro[4.5]decan-4-one | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC2(C(NCN2C2=CC=C(C=C2)F)=O)CC1 | C35H39Cl2FN4O5
